US08048902B2
Synthesis of 4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-2-carboxylic acid (Compound 9)
To 4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-2-carboxylic acid methyl ester (0.21 mmol) in methanol was added 1N aqueous LiOH (2 mL) and stirred overnight at room temperature. The solution was stirred at 40° C. for 3 days. The mixture was purified by preparative HPLC to give the title compound.

reactant | 4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-2-carboxylic acid methyl ester | 0.21 mmol | COC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl | C27H23ClN2O5
reactant | LiOH | 1N, 2 mL | [Li+].[OH-]
solvent | methanol | CO | CH4O
product | 4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-2-carboxylic acid | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C | C26H21ClN2O5
